US07304162B2
4-Ethylbenzoyl chloride (78.4 mg, 0.466 mmol) and 3-(4-chloro-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-ylamine (100 mg, 0.444 mmol) were dissolved in 4 mL of ethyl acetate in a 20 mL vial. With magnetic stirring, an aqueous solution of K2CO3 (2 mL, 0.166 g/mL) was added, and the mixture was stirred at room temperature for 18-64 hours. The reaction mixture was transferred to a separatory funnel. The organic phase was removed and evaporated to dryness under vacuum at room temperature and then at 50° C. for 30 minutes. The residue was triturated with a solution of 10% ether in hexane (7 mL) for 3-8 hours with magnetic stirring, and the resultant flocculent precipitate was removed and triturated again with 5% ether in hexane. Vacuum oven drying at 50° C. for 30 minutes yielded N-[3-(4-chloro-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-yl]-3-ethyl-benzamide in 90% purity. 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.72 (d, 2H), 7.6 (d, 2H), 7.35 (d, 2H), 7.25 (d, 2H), 2.7 (q, 2H), 1.63 (s, 6H), 1.22 (t, 3H). Some analogs were purified by trituration with pentane, hexane, or heptane, or alternatively, by column chromatography using an ethyl acetate/hexane gradient.

reactant | 4-Ethylbenzoyl chloride | 0.466 mmol, 78.4 mg | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | 3-(4-chloro-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-ylamine | 0.444 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(N1N)(C)C | C10H12ClN3O
reactant | K2CO3 | 2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | N-[3-(4-chloro-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-yl]-3-ethyl-benzamide | ClC1=CC=C(C=C1)C1=NOC(N1NC(C1=CC(=CC=C1)CC)=O)(C)C | C19H20ClN3O2
